US08008298B2
A solution of 1-methyl-cycloheptanecarboxylic acid (156 mg, 0.998 mmol) (Journal of Organic Chemistry (1982), 47(17), 3242-7) in thionyl chloride (5 ml) was stirred at room temperature for 2 days and then concentrated on high vacuum giving 174 mg (99%) of 1-methyl-cycloheptanecarbonyl chloride as a yellow oil.

reactant | 1-methyl-cycloheptanecarboxylic acid | 0.998 mmol, 156 mg | CC1(CCCCCC1)C(=O)O | C9H16O2
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
product | 1-methyl-cycloheptanecarbonyl chloride | 174 mg, 99% | CC1(CCCCCC1)C(=O)Cl | C9H15ClO
